US05256780
A solution of N-[2-(3-ethylindol-2-yl)ethyl]-1-imidazolecarboxamide (2.2 g) in toluene (50 ml) was refluxed for 3 hours. After the mixture was evaporated in vacuo, the residue was purified by silica gel column chromatography (5% methanol-chloroform) to give 5-ethyl-3,4-dihydropyrimido[1,6-a]indol-1(2H)-one (0.15 g).

reactant | N-[2-(3-ethylindol-2-yl)ethyl]-1-imidazolecarboxamide | 2.2 g | C(C)C1=C(NC2=CC=CC=C12)CCNC(=O)N1C=NC=C1 | C16H18N4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-3,4-dihydropyrimido[1,6-a]indol-1(2H)-one | 0.15 g | C(C)C1=C2N(C3=CC=CC=C13)C(NCC2)=O | C13H14N2O
